US05595685
Then, in a 300 ml-reaction vessel, 10.4 g (2.42×10-2M) of 2-(6-acetoxy-2-naphthyl)-5-(4-hexylphenyl)-thiazole and 170 ml of 0.5N-solution of potassium hydroxide in ethanol, followed by stirring for 0.5 hour at 60° C. After cooling, the reaction mixture was poured into 400 ml of ice water and acidified with 6N-hydrochloric acid to precipitate a crystal. The crystal was recovered by filtration, washed with water and dissolved in ethanol, followed by treatment with activated carbon. The activated carbon was removed from the above mixture by filtration and the filtrate was condensed, followed by drying to provide a residue. The residue was recrystallized from ethanol to obtain 7.73 g of 2-(6-hydroxy-2-naphthyl)-5-(4-hexylphenyl)thiazole (Yield: 82.6%).

reactant | 2-(6-acetoxy-2-naphthyl)-5-(4-hexylphenyl)-thiazole | 2.42×10-2M, 10.4 g | C(C)(=O)OC=1C=C2C=CC(=CC2=CC1)C=1SC(=CN1)C1=CC=C(C=C1)CCCCCC | C27H27NO2S
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 2-(6-hydroxy-2-naphthyl)-5-(4-hexylphenyl)thiazole | 7.73 g, Yield: 82.6% | OC=1C=C2C=CC(=CC2=CC1)C=1SC(=CN1)C1=CC=C(C=C1)CCCCCC | C25H25NOS
